US09415047B2
6-methoxyl-1H-benzotriazole (14.9 g, 0.10 mol) is dissolved into 100 ml of 30% wt. sodium hydroxide, 3-chlorobromopropane (31.4 g, 0.10 mol), tetrabutyl ammonium bromide (0.8 g) are added, and mixed for 5 min. The reaction solution is gradually heated to 60° C., stirred for reaction for 2 hours. Post treatment was performed based on common method two for synthesis. The solution was separated and purified by HPLC to produce 7.7 g of 1-(3-chloropropyl)-6-methoxyl-1H-benzotriazole, with a yield of 34.1%.

reactant | 6-methoxyl-1H-benzotriazole | 0.10 mol, 14.9 g | O(C)C=1C=CC2=C(NN=N2)C1 | C7H7N3O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-chlorobromopropane | 0.10 mol, 31.4 g | ClCCCBr | C3H6BrCl
catalyst | tetrabutyl ammonium bromide | 0.8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(3-chloropropyl)-6-methoxyl-1H-benzotriazole | 7.7 g, yield of 34.1% | ClCCCN1N=NC2=C1C=C(C=C2)OC | C10H12ClN3O
